US07160906B2
To 2-(3-isopropoxy-5-hydroxymethyl-benzoyl) amino-5-pyridine carboxylic acid (0.33 g, 1.0 mM) in THF (20 ml) under argon, Dess-Martin periodinane (0.46 g, 1.1 mM) was added in one portion. After 45 mins satd. potassium carbonate (20 ml) was added and the THF removed in vacuo. Residue was stirred with 2.0M Na2S2O3 (3.5 ml, 7 mM) for 35 mins then acidified cautiously to pH=1 with 2M HCl. Resulting suspension was filtered, washed with water, diethyl ether, DCM and dried under high-vacuum to give 2-(3-isopropyloxy-5-carboxy-benzoyl) amino-5-pyridine carboxylic acid as a pale yellow solid (0.3 g, 93%); 1H NMR δ (d6-DMSO): 1.32 (d, 6H), 4.82 (m, 1H), 7.58 (m, 1H), 7.84 (m, 1H), 8.11 (s, 1H), 8.29 (s, 2H), 8.87 (s, 1H), 10.02 (s, 1H), 11.34 (bs, 1H).

reactant | 2-(3-isopropoxy-5-hydroxymethyl-benzoyl) amino-5-pyridine carboxylic acid | 1.0 mM, 0.33 g | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)CO | C17H18N2O5
reactant | Dess-Martin periodinane | 1.1 mM, 0.46 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | potassium carbonate | 20 ml | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-isopropyloxy-5-carboxy-benzoyl) amino-5-pyridine carboxylic acid | 0.3 g, 93% | C(C)(C)OC=1C=C(C(=O)NC2=NC=C(C=C2)C(=O)O)C=C(C1)C(=O)O | C17H16N2O6
